US07915424B2
3-(4-Fluorophenylethynyl)-pyridine
Prepare essentially as described in PREPARATION 10 using 3-iodopyridine (153 mg, 0.75 mmol) and 1-ethynyl-4-fluorobenzene (100 mg, 0.83 mmol) to give the title compound (60 mg, 40%).

reactant | 3-iodopyridine | 0.75 mmol, 153 mg | IC=1C=NC=CC1 | C5H4IN
reactant | 1-ethynyl-4-fluorobenzene | 0.83 mmol, 100 mg | C(#C)C1=CC=C(C=C1)F | C8H5F
product | 3-(4-Fluorophenylethynyl)-pyridine | 60 mg, 40% | FC1=CC=C(C=C1)C#CC=1C=NC=CC1 | C13H8FN
